US03931204
Preparation of 4-isopropylamino-2-morpholino-thieno[3,4-d]pyrimidine.
6 g (0.26 moles) of 2-chloro-4-isopropylamino-thieno[3,4-d]pyrimidine and 25 mls. of morpholine are mixed and then heated under reflux for 4 hours. The mixture is cooled and poured into water with vigorous agitation; a brown solid appears, which is separated by filtration, washed with water and put to dry. The product is converted into the maleate, which is recrystallized from acetone. The free base is obtained again by treatment with alkali and is this way one obtains 3.4 g of pure product. M.P. 202°C. with decomposition.

reactant | 2-chloro-4-isopropylamino-thieno[3,4-d]pyrimidine | 0.26 moles, 6 g | ClC=1N=C(C=2C(N1)=CSC2)NC(C)C | C9H10ClN3S
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 4-isopropylamino-2-morpholino-thieno[3,4-d]pyrimidine | 3.4 g | C(C)(C)NC=1C=2C(N=C(N1)N1CCOCC1)=CSC2 | C13H18N4OS
